US04804404
2.4 g of 2,3-bis-(trifluoromethyl)-8-bromomethyl-7-chloroquinoline are suspended in 6.8 g of propionic acid and 6.8 g of 70% strength sulfuric acid, and 5.5 g of 65% strength nitric acid are added dropwise at 120° C. After 2 hours at 120° C., the mixture is diluted with water and the precipitate is filtered off under suction, washed and dried; 1.7 g (84%) of 2,3-bis-(trifluoromethyl)-7-chloroquinoline-8-carboxylic acid of melting point 108°-111° C. are isolated.

reactant | 2,3-bis-(trifluoromethyl)-8-bromomethyl-7-chloroquinoline | 2.4 g | FC(C1=NC2=C(C(=CC=C2C=C1C(F)(F)F)Cl)CBr)(F)F | C12H5BrClF6N
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | propionic acid | 6.8 g | C(CC)(=O)O | C3H6O2
solvent | water | O | H2O
product | 2,3-bis-(trifluoromethyl)-7-chloroquinoline-8-carboxylic acid | 1.7 g, 84% | FC(C1=NC2=C(C(=CC=C2C=C1C(F)(F)F)Cl)C(=O)O)(F)F | C12H4ClF6NO2
